US07482354B2
1-(4-Methyl-piperazine-1-carbonyl)-piperidin-4-one hydrochloride
To a suspension of 4-methylpiperazine-1-carbonyl chloride hydrochloride (19.9 g 0.1 mol) and piperidone monohydrate hydrochloride (15.3 g 0.1 mol), in 200 mL of dichloromethane, dry triethylamine (45 mL, 0.33 mol) was added dropwise. The mixture was stirred for 2 hours. The organic phase was washed with brine (2×20 mL) and dried over sodium sulfate. After filtration, the solvent was evaporated in vacuo and the crude product was dissolved in EtOH (50 mL) and diethylether (100 mL) and treated with HCl 4N in dioxane (25 mL). After 1 hour, the precipitate was filtered and dried in oven to give 13 g (yield 50%) of the title compound.

reactant | 4-methylpiperazine-1-carbonyl chloride hydrochloride | 0.1 mol, 19.9 g | Cl.CN1CCN(CC1)C(=O)Cl
reactant | piperidone monohydrate hydrochloride | 0.1 mol, 15.3 g | Cl.O.N1C(CCCC1)=O
reactant | triethylamine | 0.33 mol, 45 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-(4-Methyl-piperazine-1-carbonyl)-piperidin-4-one hydrochloride | 13 g, yield 50% | Cl.CN1CCN(CC1)C(=O)N1CCC(CC1)=O | InChI=1S/C11H19N3O2.ClH/c1-12-6-8-14(9-7-12)11(16)13-4-2-10(15)3-5-13;/h2-9H2,1H3;1H
